US07214681B2
2-(4-Methanesulfonylphenyl)-3-(tetrahydropyran-4-yl)-N-thiazol-2-ylpropionamide
EDCI (80 mg, 420 μmol) and HOBt (56 mg, 420 μmol) were added to a stirred solution of 2-(4-methanesulfonylphenyl)-3-(tetrahydropyran-4-yl)propionic acid (Preparation 41, 100 mg, 320 μmol) in anhydrous DMF (6 mL). After 15 min, the solution was treated with thiazol-2-ylamine (38 mg, 380 μmol). The mixture was stirred at 20° C. for 16 h, before being concentrated under reduced pressure. The residue was partitioned between CH2Cl2 and saturated aqueous Na2CO3. The organic layer was washed with 1M HCl and dried (MgSO4). Filtration and solvent evaporation yielded the title compound: RTA=3.16 min; m/z (ES+)=436.2 [M+MeCN+H]+.

reactant | EDCI | 420 μmol, 80 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 420 μmol, 56 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-(4-methanesulfonylphenyl)-3-(tetrahydropyran-4-yl)propionic acid | 320 μmol, 100 mg | CS(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)CC1CCOCC1 | C15H20O5S
reactant | thiazol-2-ylamine | 380 μmol, 38 mg | S1C(=NC=C1)N | C3H4N2S
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-(4-Methanesulfonylphenyl)-3-(tetrahydropyran-4-yl)-N-thiazol-2-ylpropionamide | CS(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)CC1CCOCC1 | C18H22N2O4S2
